US08420863B2
(S,E)-1-Chloro-3-(3-(2,6-dichlorostyryl)phenyl)propan-2-ol was reacted with NaN3 following the method used in Example 74 to give (S,E)-1-azido-3-(3-(2,6-dichlorostyryl)phenyl)propan-2-ol. This material was used in the next synthetic step without purification.

reactant | (S,E)-1-Chloro-3-(3-(2,6-dichlorostyryl)phenyl)propan-2-ol | ClC[C@H](CC1=CC(=CC=C1)\C=C\C1=C(C=CC=C1Cl)Cl)O | C17H15Cl3O
reactant | NaN3 | [N-]=[N+]=[N-].[Na+]
product | (S,E)-1-azido-3-(3-(2,6-dichlorostyryl)phenyl)propan-2-ol | N(=[N+]=[N-])C[C@H](CC1=CC(=CC=C1)\C=C\C1=C(C=CC=C1Cl)Cl)O | C17H15Cl2N3O
